US07074801B1
4′-Cyclopentyloxy-2′-fluoroacetophenone
A suspension of 2.5 g 4′-hydroxy-2′-fluoroacetophenone, 2.0 mL cyclopentane bromide and 7.9 g cesium carbonate in acetonitrile (35 mL) was heated for 1 hour under reflux and then heated at 70° C. for 15 hours. Further, 1.0 mL cyclopentane bromide was added thereto, and the mixture was heated for 3 hours under reflux. The reaction mixture was diluted with ethyl acetate, washed with water and brine and dried over anhydrous sodium sulfate, and the solvent was removed, whereby 3.65 g of the title compound in a crude state (yellow oil) was obtained.

reactant | 4′-hydroxy-2′-fluoroacetophenone | 2.5 g | OC1=CC(=C(C=C1)C(C)=O)F | C8H7FO2
reactant | cyclopentane bromide | 2.0 mL | [Br-].C1CCCC1
reactant | cesium carbonate | 7.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclopentane bromide | 1.0 mL | [Br-].C1CCCC1
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-Cyclopentyloxy-2′-fluoroacetophenone | 3.65 g | C1(CCCC1)OC1=CC(=C(C=C1)C(C)=O)F | C13H15FO2
